US07741327B2
To a suspension of 4-methoxyphenylacetamide (5.06 g, 30.0 mmol) in toluene (10 mL) was added 2,6-di-t-butyl-4-hydroxytoluene (132 mg, 0.60 mmol) and chlorocarbonylsulfenyl chloride (5.52 mL, 60.0 mmol). The resulting mixture was warmed to 115° C. for 80 min during which time hydrochloric acid gas was evolved resulting in a yellow solution. To this solution additional chlorcarbonyl-sulfenylchloride (1.38 mL, 15.00 mmoles) was added and the mixture heated for 40 min and allowed to stand at room temperature overnight. The reaction mixture was cooled to 0° C. and stirred for 10 min before being filtered to remove a beige solid. The solid was washed with cold toluene (2×10 mL) and the filtrate was concentrated and purified by flash chromatography (silica gel, 20% ethyl acetate/hexanes) which afforded 5-(4-methoxy-benzyl)-[1,3,4]oxathiazol-2-one (1.12 g, 17%) as a yellow solid.

reactant | 4-methoxyphenylacetamide | 30.0 mmol, 5.06 g | COC1=CC=C(C=C1)CC(=O)N | C9H11NO2
reactant | 2,6-di-t-butyl-4-hydroxytoluene | 0.60 mmol, 132 mg | C(C)(C)(C)C1=C(C(=CC(=C1)O)C(C)(C)C)C | C15H24O
reactant | chlorocarbonylsulfenyl chloride | 60.0 mmol, 5.52 mL | ClC(=O)SCl | CCl2OS
reactant | hydrochloric acid | Cl | ClH
reactant | chlorcarbonyl-sulfenylchloride | 15.00 mmoles, 1.38 mL | ClC(=O)SCl | CCl2OS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-methoxy-benzyl)-[1,3,4]oxathiazol-2-one | 1.12 g, 17% | COC1=CC=C(CC2=NSC(O2)=O)C=C1 | C10H9NO3S
